US07037935B2
c) (RS)-[1-(4-Benzyloxy-phenyl)-5-oxo-pyrrolidin-3-yl]-acetonitrile
123 mg (0.39 mmol) (RS)-1-(4-benzyloxy-phenyl)-4-chloromethyl-pyrrolidin-2-one is dissolved in 2.5 ml N,N-dimethylformamide. After addition of 29 mg (0.58 mmol) sodium cyanide and 6 mg (0.04 mmol) sodium iodide, the mixture is hold at 120° C. for 15 min. Dilution with water and extraction with ethyl acetate yields 44 mg (37%) of a brownish solid. MS: m/e=307.3 (M+H)+.

reactant | (RS)-1-(4-benzyloxy-phenyl)-4-chloromethyl-pyrrolidin-2-one | 0.39 mmol, 123 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(CC(C1)CCl)=O | C18H18ClNO2
reactant | sodium cyanide | 0.58 mmol, 29 mg | [C-]#N.[Na+]
reactant | sodium iodide | 0.04 mmol, 6 mg | [I-].[Na+]
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | (RS)-[1-(4-Benzyloxy-phenyl)-5-oxo-pyrrolidin-3-yl]-acetonitrile | 44 mg, 37% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1CC(CC1=O)CC#N | C19H18N2O2
